US07678818B2
b) Preparation of 2-(4-chloro-3-trifluoromethyl-phenyl)-ethylamine hydrochloride
The title compound was synthesized in analogy to 2-(3-fluoro-4-trifluoromethyl-phenyl)-ethylamine hydrochloride (described in example S1-B) from 3.188 g of crude (4-chloro-3-trifluoromethyl-phenyl)-acetonitrile (14.5 mmol) and 76 ml of a 1M borane-THF complex solution in THF (76 mmol). The product was obtained as a white solid (1.52 g, 40%). MS (ISP) 224.1 (M+H)+.

reactant | 2-(3-fluoro-4-trifluoromethyl-phenyl)-ethylamine hydrochloride | Cl.FC=1C=C(C=CC1C(F)(F)F)CCN
reactant | (4-chloro-3-trifluoromethyl-phenyl)-acetonitrile | 14.5 mmol, 3.188 g | ClC1=C(C=C(C=C1)CC#N)C(F)(F)F | C9H5ClF3N
reactant | THF | 76 mmol | C1CCOC1 | C4H8O
product | 2-(4-chloro-3-trifluoromethyl-phenyl)-ethylamine hydrochloride | Cl.ClC1=C(C=C(C=C1)CCN)C(F)(F)F | InChI=1S/C9H9ClF3N.ClH/c10-8-2-1-6(3-4-14)5-7(8)9(11,12)13;/h1-2,5H,3-4,14H2;1H
